US08664220B2
Step 2: 1-(4′-{4-[(4-Benzyloxy-phenyl)-hydroxy-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 2, using (4-benzyloxy-phenyl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | (4-benzyloxy-phenyl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C24H20BrNO3
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-(4′-{4-[(4-Benzyloxy-phenyl)-hydroxy-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C36H33NO5
